US06359134B1
1-(6-Aminonaphthalene -2-sulfonyl)-4-(4-diisopropylaminomethylbenzoyl)piperazine
To a solution of 1-(4-diisopropylaminomethylbenzoyl)-4-[6-(2,2, 2-trichloroethoxycarbonylamino)naphthalene-2-sulfonyl]piperazine (125 mg) in acetic acid (3 ml) was added zinc dust (1.0 g), and the solution was stirred at room temperature for 3 hours. Insoluble materials were filtered off, and the filtrate was concentrated. The residue was dissolved in 1 N hydrochloric acid and the solution was made alkaline with 1 N sodium hydroxide solution. The precipitate was filtered, washed with water and dried to give pale purple solid of the title compound (92 mg).

reactant | 1-(4-diisopropylaminomethylbenzoyl)-4-[6-(2,2, 2-trichloroethoxycarbonylamino)naphthalene-2-sulfonyl]piperazine | 125 mg | C(C)(C)N(C(C)C)CC1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)NC(=O)OCC(Cl)(Cl)Cl)C=C1 | C31H37Cl3N4O5S
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.0 g | [Zn] | Zn
product | 1-(6-Aminonaphthalene -2-sulfonyl)-4-(4-diisopropylaminomethylbenzoyl)piperazine | 92 mg | NC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)CN(C(C)C)C(C)C)=O | C28H36N4O3S
